US04656265
5-Methyl-3-(2-pyridyl)-2H,5H-1,3-oxazino-[5,6-c] thieno[2,3-e] 1,2-thiazine-2,4-(3H)-dione 6,6-dioxide hydrochloride; (II)
To a solution of 3.37 g. (10 mmole) N-(2-pyridyl)-4-hydroxy-2-methyl-2H-thieno[2,3-e]-1,2-thiazine-3-carboxamide 1,1-dioxide (tenoxicam) in 150 ml. toluene under nitrogen is added 1.01 g. (10 mmole) triethylamine and the mixture is cooled to 0° C. The cold solution is then added dropwise to a solution of 1.0 g. (10 mmole) phosgene in 50 ml. toluene at -70° C. over 45 minutes and stirring is continued at -70° to -60° C. for an additional 30 minutes. The reaction mixture is allowed to warm to room temperature and stirred for an hour. The solvent is evaporated in vacuo, the residue triturated with acetone and filtered to obtain the desired product which is purified by recrystallization, e.g., from acetine, ethanol or chloroform.

reactant | N-(2-pyridyl)-4-hydroxy-2-methyl-2H-thieno[2,3-e]-1,2-thiazine-3-carboxamide 1,1-dioxide | 10 mmole | N1=C(C=CC=C1)NC(=O)C=1N(S(C2=C(C1O)SC=C2)(=O)=O)C | C13H11N3O4S2
reactant | triethylamine | 10 mmole | C(C)N(CC)CC | C6H15N
reactant | phosgene | 10 mmole | C(=O)(Cl)Cl | CCl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-Methyl-3-(2-pyridyl)-2H,5H-1,3-oxazino-[5,6-c] thieno[2,3-e] 1,2-thiazine-2,4-(3H)-dione 6,6-dioxide hydrochloride | Cl.CN1S(C2=C(C3=C1C(N(C(O3)=O)C3=NC=CC=C3)=O)SC=C2)(=O)=O | InChI=1S/C14H9N3O5S2.ClH/c1-16-10-11(12-8(5-7-23-12)24(16,20)21)22-14(19)17(13(10)18)9-4-2-3-6-15-9;/h2-7H,1H3;1H
